US07271274B2
To a solution of 3,4-dihydroxy-hexanedioic acid dimethyl ester (Ex-14A, 8.8 g, 43 mmol) in toluene (65 mL) was added triethyl orthoformate (12.6 g, 85.4 mmol) and the mixture was heated at reflux with a Dean-Stark trap for 24 h. The reaction mixture was then distilled to remove toluene and excess triethyl orthoformate and dried in vacuo to give (2-ethoxy-5-methoxycarbonylmethyl-[1,3]dioxolan-4-yl)-acetic acid methyl ester as a colorless oil (11.0 g, 99%). This material used without further purification. 1H-NMR (300 MHz, CDCl3) δ5.80 (s, 1H),4.41 (q, 1H, J=6.3 Hz), 4.28 (q, 1H, J=6.3 Hz), 3.71 (s, 6H), 3.78 (q, 2H, J=7.2 Hz), 2.83 (dd, 1H, J=9.3, 6.7 Hz), 2.70 (dd, 1H, J=6.7, 3.0 Hz), 1.22 (t, 3H, J=7.2 Hz). HRMS (EI) calcd for C11H18O7 (M−H), 261.0974; found, 261.0970.

reactant | 3,4-dihydroxy-hexanedioic acid dimethyl ester | 43 mmol, 8.8 g | COC(CC(C(CC(=O)OC)O)O)=O | C8H14O6
reactant | triethyl orthoformate | 85.4 mmol, 12.6 g | C(OCC)(OCC)OCC | C7H16O3
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
product | (2-ethoxy-5-methoxycarbonylmethyl-[1,3]dioxolan-4-yl)-acetic acid methyl ester | 11.0 g, 99% | COC(CC1OC(OC1CC(=O)OC)OCC)=O | C11H18O7
